US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7,16-triene
To a solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-hydroxymethylandrosta-5,7,16-triene (951 mg, 1.75 mmol) in tetrahydrofuran (17.5 ml), was added sodium hydride (60% in oil, 105 mg, 2.62 mmol), followed by stirring under nitrogen stream at room temperature for 30 min. After adding N,N-dimethylacrylamide (540 mg, 5.44 mmol), the solution was stirred at 5° C. for 14 hours, poured into a saturated aqueous ammonium chloride solution, extracted with ethyl acetate (3 times) and washed with saturated brine and water. The organic layer was dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was purified by column chromatography (hexane:ethyl acetate 2:1) to give the titled compound (1.05 g, 92.7%) as a yellow oil.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-hydroxymethylandrosta-5,7,16-triene | 1.75 mmol, 951 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H56O3Si2
reactant | sodium hydride | 2.62 mmol, 105 mg | [H-].[Na+]
reactant | N,N-dimethylacrylamide | 5.44 mmol, 540 mg | CN(C(C=C)=O)C | C5H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 17.5 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7,16-triene | 1.05 g, 92.7% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C37H65NO4Si2
